US07419984B2
Following the method described in Example 72, 2-(2-amino-6-chloro-pyrimidin-4-yl)-4-chloro-phenol and bromomethyl-benzene provided 4-(2-benzyloxy-5-chloro-phenyl)-6-chloro-pyrimidin-2-ylamine (56% yield).

reactant | 2-(2-amino-6-chloro-pyrimidin-4-yl)-4-chloro-phenol | NC1=NC(=CC(=N1)C1=C(C=CC(=C1)Cl)O)Cl | C10H7Cl2N3O
reactant | bromomethyl-benzene | BrCC1=CC=CC=C1 | C7H7Br
product | 4-(2-benzyloxy-5-chloro-phenyl)-6-chloro-pyrimidin-2-ylamine | 56% yield | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)Cl)C1=NC(=NC(=C1)Cl)N | C17H13Cl2N3O
